US04622403
EXAMPLE 32 (±)-1-Hydroxy-2,3,9,10-tetrahydro-1H-benzo[b]indeno-[5,4-f]thiepin-6-carboxylic acid
A suspension of 1-oxo-2,3,9,10-tetrahydro-1H-benzo[b]indeno[5,4-f]thiepin-6-carboxylic acid (3.10 g, 10 mmole) in water (60 ml) was stirred during the addition of 1N sodium hydroxide solution (10 ml). After stirring for 15 minutes the mixture was treated with sodium borohydride (0.95 g, 25 mmole) in portions and the reaction mixture was stirred at room temperature overnight. Careful acidification of the mixture with 10% hydrochloric acid precipitated the racemic title compound which was collected by filtration and washed well with water.

reactant | 1-oxo-2,3,9,10-tetrahydro-1H-benzo[b]indeno[5,4-f]thiepin-6-carboxylic acid | 10 mmole, 3.10 g | O=C1CCC=2C=CC=3C(=CC=4C(SC3C12)=CCCC4)C(=O)O | C18H14O3S
reactant | sodium hydroxide | 1N, 10 ml | [OH-].[Na+]
reactant | sodium borohydride | 25 mmole, 0.95 g | [BH4-].[Na+]
solvent | water | 60 ml | O | H2O
product | (±)-1-Hydroxy-2,3,9,10-tetrahydro-1H-benzo[b]indeno-[5,4-f]thiepin-6-carboxylic acid | OC1CCC=2C=CC=3C(=CC=4C(SC3C12)=CCCC4)C(=O)O | C18H16O3S
